US09079918B2
3-(6-(3-tert-Butoxy-3-oxopropyl)-5-fluoropyridin-2-yl)-2-(tert-butoxycarbonylamino)propanoic acid. To a solution of 139C (0.68 g, 1.551 mmol) in THF (10 mL) and water (3 mL) was added LiOH (0.074 g, 3.10 mmol) at 0° C. The reaction was stirred under argon at 0° C. for 2 hrs. 1.0 N HCl (3.1 mL) was added to neutralize the reaction. The reaction mixture was diluted with EtOAc, washed with H2O and brine. The organic phase was dried over magnesium sulfate, filtered and concentrated to give a tan solid of (E)-3-(6-(3-tert-butoxy-3-oxoprop-1-enyl)-5-fluoropyridin-2-yl)-2-(tert-butoxycarbonylamino)propanoic acid. MS (ESI) m/z: 411.1 (M+H)+. To the above obtained intermediate were added catalytic amount of 10% Pd/C and MeOH (15 mL). The reaction mixture was stirred under a hydrogen balloon at rt for 1 h. Catalyst was filtered off and solvent was removed to give 139D as a tan solid. MS (ESI) m/z: 413.1 (M+H)+.

reactant | 3-(6-(3-tert-Butoxy-3-oxopropyl)-5-fluoropyridin-2-yl)-2-(tert-butoxycarbonylamino)propanoic acid | C(C)(C)(C)OC(CCC1=C(C=CC(=N1)CC(C(=O)O)NC(=O)OC(C)(C)C)F)=O | C20H29FN2O6
reactant | LiOH | 3.10 mmol, 0.074 g | [Li+].[OH-]
reactant | HCl | 1.0 N, 3.1 mL | Cl | ClH
solvent | THF | 10 mL | C1CCOC1 | C4H8O
solvent | water | 3 mL | O | H2O
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | (E)-3-(6-(3-tert-butoxy-3-oxoprop-1-enyl)-5-fluoropyridin-2-yl)-2-(tert-butoxycarbonylamino)propanoic acid | C(C)(C)(C)OC(/C=C/C1=C(C=CC(=N1)CC(C(=O)O)NC(=O)OC(C)(C)C)F)=O | C20H27FN2O6
